US07381736B2
A mixture of 3-bromobenzaldehyde (1.000 g; 5.4 mmol), methyl 3-hydroxybenzoate (987 mg; 6.5 mmol) and potassium carbonate (1.494 g; 10.8 mmol) in dry pyridine (8 mL) is stirred under argon at RT. Copper (II) oxide (860 mg; 10.8 mmol) is added and the reaction mixture is refluxed for 12 hours. After cooling to RT, CH2Cl2 (50 mL) is added and the mixture is filtered through celite. The filter cake is washed with fresh CH2Cl2 (50 mL). The combined organics are concentrated in vacuo. The residue is purified by flash chromatography (ethyl acetate/hexanes, 1:10 to 1:4) to yield methyl 3-(3-carbonylphenoxy)benzoate (776 mg; 56%) as a yellow oil.

reactant | 3-bromobenzaldehyde | 5.4 mmol, 1.000 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | methyl 3-hydroxybenzoate | 6.5 mmol, 987 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 10.8 mmol, 1.494 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
catalyst | Copper (II) oxide | 10.8 mmol, 860 mg | [Cu]=O
product | methyl 3-(3-carbonylphenoxy)benzoate | 776 mg, 56% | C(=O)=C1CC(OC=2C=C(C(=O)OC)C=CC2)=CC=C1 | C15H12O4
